US08247576B2
60A. 6-(3-Methyl-1-trityl-1H-pyrazol-4-yl)-nicotinonitrile
To a solution of 6-Chloro-nicotinonitrile (0.2 g, 1.49 mmol) and 3-methyl-1-trityl-1H-pyrazole-4-boronic acid* (0.5 g, 1.36 mmol) in ethylene glycol dimethyl ether (3 ml), was added sodium carbonate (0.36 g, 3.39 mmol) in water (1.5 ml). The reaction mixture was degassed with nitrogen before addition of tetrakis(triphenylphosphine)palladium (0) and then heated in a CEM microwave at 135° C. for 30 minutes (50 W power). Reaction partitioned between water and ethyl acetate, aqueous basified with 2N NaOH, organic extracts were combined, dried (MgSO4) and solvent removed. Crude product suspended in small volume of methanol, white precipitate filtered to afford the title compound (0.32 g, 53% yield). LC/MS: (PS-A2) Rt 4.52 [M+H]+ 427.26.

reactant | 6-Chloro-nicotinonitrile | 1.49 mmol, 0.2 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 3-methyl-1-trityl-1H-pyrazole-4-boronic acid | CC1=NN(C=C1B(O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21BN2O2
reactant | sodium carbonate | 3.39 mmol, 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 3 ml | COCCOC | C4H10O2
solvent | water | 1.5 ml | O | H2O
product | 6-(3-Methyl-1-trityl-1H-pyrazol-4-yl)-nicotinonitrile | 0.32 g, 53% yield | CC1=NN(C=C1C1=NC=C(C#N)C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H22N4
